US08669234B2
1-{2-[5-(9-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-6-methyl-6,7-dihydro-5H-dibenzo[c,e]azepin-3-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester: To the solution of 3,9-bis-[2-(pyrrolidin-2-yl)-3H-imidazol-4-yl]-6-methyl-6,7-dihydro-5H-dibenzo[c,e]azepine (25 mg, 0.035 mmol) and MeOCO-Val-OH (13 mg, 0.074 mmol) in DMF (1.2 ml) was added HATU (28 mg, 0.074 mmol), followed by diisopropylethylamine (61 μl, 0.35 mmol). The mixture was stirred for 90 minutes and was diluted with EtOAc. The organic phase was washed with 1 N NaOH solution, water, and brine, and was dried with sodium sulfate. Concentration and purification by HPLC (0.1% TFA/CH3CN/0.1% TFA/H2O) gave (1-{2-[5-(9-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-6-methyl-6,7-dihydro-5H-dibenzo[c,e]azepin-3-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (24 mg). m/z: 794.3 (M+H)+, 397.8 (M+2H)+/2. 1H NMR (CD3OD, 300 MHz) δ 8.0-7.9 (8 H, m), 5.27 (2 H, m), 4.3-4.2 (2 H, m), 4.2-3.8 (8 H, m), 3.66 (6 H, s), 3.08 (3 H, s), 2.7-2.5 (2 H, m), 2.4-1.9 (8 H, m), 0.94-0.90 (12 H, m).

reactant | carbamic acid methyl ester | COC(N)=O | C2H5NO2
reactant | 3,9-bis-[2-(pyrrolidin-2-yl)-3H-imidazol-4-yl]-6-methyl-6,7-dihydro-5H-dibenzo[c,e]azepine | 0.035 mmol, 25 mg | N1C(CCC1)C1=NC=C(N1)C=1C=CC2=C(CN(CC3=C2C=CC(=C3)C=3NC(=NC3)C3NCCC3)C)C1 | C29H33N7
reactant | MeOCO-Val-OH | 0.074 mmol, 13 mg | COC(=O)N[C@@H](C(C)C)C(=O)O | C7H13NO4
reactant | HATU | 0.074 mmol, 28 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.35 mmol, 61 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMF | 1.2 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1-{2-[5-(9-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-6-methyl-6,7-dihydro-5H-dibenzo[c,e]azepin-3-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 24 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C=1C=CC2=C(CN(CC3=C2C=CC(=C3)C=3NC(=NC3)C3N(CCC3)C(C(C(C)C)NC(=O)OC)=O)C)C1)=O | C43H55N9O6
